US06566385B2
Step A: Preparation of 5-[1-(3-Methoxy-phenyl)-2-oxo-cyclohexyl]-pentanoic Acid Ethyl Ester
2-(3-Methoxy-phenyl)-cyclohexanone (0.80 g, 4.05 mmol) was added slowly to a suspension of NaH (60%) (0.185 g, 5.1 mmol) in anhydrous DMF (5 mL) at 0° C. under Ar over 15 min. After an additional 15 min. at 20° C. 6-bromohexanoic acid ethyl ester (1.0 g, 4.5 mmol) was added followed by stirring at 60° C. for 6 hr. The reaction mixture was cooled, quenched with saturated NH4Cl solution, partitioned between EtOAc (150 mL) and H2O (100 mL), the organic layer washed with H2O (2×100 mL), dried (Na2SO4), filtered, and concentrated to dryness to give the title compound after silica gel chromatography eluting with hexane:EtOAc, 50:1 to 10:1.

reactant | 2-(3-Methoxy-phenyl)-cyclohexanone | 4.05 mmol, 0.80 g | COC=1C=C(C=CC1)C1C(CCCC1)=O | C13H16O2
reactant | NaH | 5.1 mmol, 0.185 g | [H-].[Na+]
reactant | 6-bromohexanoic acid ethyl ester | 4.5 mmol, 1.0 g | C(C)OC(CCCCCBr)=O | C8H15BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-[1-(3-Methoxy-phenyl)-2-oxo-cyclohexyl]-pentanoic Acid Ethyl Ester | C(C)OC(CCCCC1(C(CCCC1)=O)C1=CC(=CC=C1)OC)=O | C20H28O4
